US08071597B2
Intermediate 73: 1,4-Dihydropyrido[3,4-b]pyrazine-2,3-dione (Formula VIII)
To a suspension of 3,4-diaminopyridine (10 g, 0.068 mol) in 4N aqueous HCl (100 ml) is added oxalic acid (10.4 g, 0.082 mol) and the reaction mixture is refluxed for 20 h. The reaction mixture is cooled down and the solid precipitated is filtered, washed with water then dried under vacuum to afford 9 g (80%) of the title compound as a solid. HPLC (max plot) 98%. LC/MS: (ES+): 164.3.

reactant | 3,4-diaminopyridine | 0.068 mol, 10 g | NC=1C=NC=CC1N | C5H7N3
reactant | oxalic acid | 0.082 mol, 10.4 g | C(C(=O)O)(=O)O | C2H2O4
solvent | HCl | 4N, 100 ml | Cl | ClH
product | 1,4-Dihydropyrido[3,4-b]pyrazine-2,3-dione | 9 g, 80% | N1C2=C(NC(C1=O)=O)C=NC=C2 | C7H5N3O2
